US06380242B1
1-(2-(N,N-Dimethylamino)ethyl)-6-(4-hydroxy-tetrahydro-thiopyran-4-yl)-1H-indole
1-(N-Cyclopropylamino)ethyl)-6-(4-hydroxy-tetrahydrothiopyran-4-yl)-1H-indole: (34.2 mg, 8%); from 6-bromo-1-(N-Cyclopropylamino)ethyl indole (400.0 mg, 1.32 mmol), nBuLi (2.5M, 1.32 mL, 3.30 mmol) and tetrahydrothiopyran-4-one (760.0 mg, 6.59 mmol).

reactant | 6-(4-hydroxy-tetrahydrothiopyran-4-yl)-1H-indole | OC1(CCSCC1)C1=CC=C2C=CNC2=C1 | C13H15NOS
reactant | 6-bromo-1-(N-Cyclopropylamino)ethyl indole | 1.32 mmol, 400.0 mg | BrC1=CC=C2C=C(NC2=C1)C(C)NC1CC1 | C13H15BrN2
reactant | nBuLi | 3.30 mmol, 2.5M, 1.32 mL | [Li]CCCC
reactant | tetrahydrothiopyran-4-one | 6.59 mmol, 760.0 mg | S1CCC(CC1)=O | C5H8OS
product | 1-(2-(N,N-Dimethylamino)ethyl)-6-(4-hydroxy-tetrahydro-thiopyran-4-yl)-1H-indole | CN(C)CCN1C=CC2=CC=C(C=C12)C1(CCSCC1)O | C17H24N2OS
